US06541423B1
1.6 Methyl 3-Amino-2-methyl-4-methylsulfanylbenzoate
2 g of 3-amino-2-methyl-4-methylsulfanylbenzoic acid (0.01 mol) were dissolved in 20 ml of methanol and admixed with 2.0 g of conc. sulfuric acid, and the mixture was heated at 60° C. for 2 h. After cooling, the reaction mixture was poured into water, neutralized and extracted with ethyl acetate. After washing and drying, the solvent was removed.

reactant | 3-amino-2-methyl-4-methylsulfanylbenzoic acid | 0.01 mol, 2 g | NC=1C(=C(C(=O)O)C=CC1SC)C | C9H11NO2S
reactant | sulfuric acid | 2.0 g | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
reactant | methanol | 20 ml | CO | CH4O
product | Methyl 3-Amino-2-methyl-4-methylsulfanylbenzoate | NC=1C(=C(C(=O)OC)C=CC1SC)C | C10H13NO2S
